US07569727B2
2.12 ml of 48% aqueous hydrobromic acid are added slowly to 1.28 g of 3-(4-methoxyphenyl)cyclohexanone in 6.4 ml of acetic anhydride. After 4 hours at reflux, the reaction mixture is poured into ice-water and extracted with diethyl ether. After concentration of the organic phase and purification over silica gel, 3-(4-hydroxyphenyl)cyclohexanone is obtained in the form of an oil.

reactant | hydrobromic acid | 2.12 ml | Br | BrH
reactant | 3-(4-methoxyphenyl)cyclohexanone | 1.28 g | COC1=CC=C(C=C1)C1CC(CCC1)=O | C13H16O2
solvent | acetic anhydride | 6.4 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(4-hydroxyphenyl)cyclohexanone | OC1=CC=C(C=C1)C1CC(CCC1)=O | C12H14O2
